US08609656B2
Preparation of 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-{4-[6-(2-methoxy-ethylamino)purin-9-yl]-phenyl}urea hydrochloride (Table 1, Compound No. 35)
The title compound can be synthesized from (2-methoxyethyl)-[9-(4-nitrophenyl)-9H-purin-6-yl]carbamic acid tert-butyl ester and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by the methods of Steps B and C of Example 1 and Example 30.

reactant | (2-methoxyethyl)-[9-(4-nitrophenyl)-9H-purin-6-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)[N+](=O)[O-])CCOC)=O | C19H22N6O5
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-{4-[6-(2-methoxy-ethylamino)purin-9-yl]-phenyl}urea hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NCCOC)C(F)(F)F | InChI=1S/C22H19ClF3N7O2.ClH/c1-35-9-8-27-19-18-20(29-11-28-19)33(12-30-18)15-5-2-13(3-6-15)31-21(34)32-14-4-7-17(23)16(10-14)22(24,25)26;/h2-7,10-12H,8-9H2,1H3,(H,27,28,29)(H2,31,32,34);1H
